US06809206B2
Preparation of 4-nitrophenyl 2-nitro-4-(methylsulfonyl)benzoate
A 100-mL 2-necked round bottom flask was fitted with thermometer, magnetic stirrer, and reflux condenser with nitrogen bypass. The flask was charged with 1.23 g (5 mmol) of 2-nitro-4-(methylsulfonyl)benzoic acid, 2 drops of DMF, and 20 mL of dichloromethane. Oxalyl chloride (0.70 g, 5.5 mmol) was added dropwise and the mixture was stirred for 1 hr. A solution consisting of 0.70 g (5 mmol) of 4-nitrophenol, 0.55 g (5.5 mmol) of triethylamine and 5 mL of dichloromethane was added and the mixture was stirred for 1 hr. The mixture was diluted with 100 mL of dichloromethane, washed twice with 100 mL portions of aqueous sodium bicarbonate, once with 100 mL of water, dried with magnesium sulfate, filtered, and volatiles removed under reduced pressure to give the title product as 1.56 g of off-white solid, m.p. 171-173° C. 1H NMR (CDCl3): δ 3.19 (s, 3), 7.47 (m, 2), 8.10 (m, 1), 8.38 (m, 3), 8.69 (m, 1).

reactant | 2-nitro-4-(methylsulfonyl)benzoic acid | 5 mmol, 1.23 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H7NO6S
reactant | Oxalyl chloride | 5.5 mmol, 0.70 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-nitrophenol | 5 mmol, 0.70 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | triethylamine | 5.5 mmol, 0.55 g | C(C)N(CC)CC | C6H15N
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-nitrophenyl 2-nitro-4-(methylsulfonyl)benzoate | [N+](=O)([O-])C1=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC(=C1)S(=O)(=O)C | C14H10N2O8S
